US06248740B1
Production of N-(6-chloroimidazo[1,2-b]pyridazine-2-carbonyl]glycine ethyl ester
0.593 g of 6-chloroimidazo[1,2-b]pyridazine-2-carboxylic acid was suspended in 7.5 ml of N,N-dimethylformamide; 0.535 g of N,N′-carbonyldiimidazole and 0.46 g of glycine ethyl ester hydrochloride were added, followed by stirring at room temperature for 30 minutes. To this mixture, 0.457 ml of triethylamine was added, followed by further stirring for 1 hour. Ice water was added to the reaction mixture; the crystal precipitated was collected by filtration, washed with water and dried to yield 0.749 g of the title compound.

reactant | 6-chloroimidazo[1,2-b]pyridazine-2-carboxylic acid | 0.593 g | ClC=1C=CC=2N(N1)C=C(N2)C(=O)O | C7H4ClN3O2
reactant | glycine ethyl ester hydrochloride | 0.46 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 0.457 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 7.5 ml | CN(C=O)C | C3H7NO
product | N-(6-chloroimidazo[1,2-b]pyridazine-2-carbonyl]glycine ethyl ester | 0.749 g | C(C)OC(CNC(=O)C=1N=C2N(N=C(C=C2)Cl)C1)=O | C11H11ClN4O3
